US06982259B2
To a mixture of 3-[4-(imidazol-1-yl)phenoxy]piperidine (308 mg, 1.26 mmol), methanol (6.0 mL) was added 4-methoxy-1-naphthaldehyde (1.25 eq, 298 mg), followed by borane pyridine complex (0.196 mL, 1.25 eq.). The resulting mixture was stirred overnight. The methanol was evaporated, and the residue diluted with ethyl acetate, washed with water and brine. Evaporation of the solvent in vacuo gave a crude product. Flash column chromatography on silical gel with 1-2% methanol in methylene chloride afforded 3-[4-(imidazol-1-yl)phenoxy]-]-1-[(4-methoxynaphth-1-yl)methyl]piperidine (54 mg), 1H NMR(CDCl3) 8.30 (m, 2), 7.70 (s, 1), 7.50 (m, 2), 7.30 (s, 1), 7.20 (m, 4), 6.90 (m, 2), 6.70 (d, 2), 4.30 (m, 1), 4.00 (s, 3), 3.90 (AB q , 2), 3.10 (m, 1), 2.80 (m, 1), 2.10-2.30 (m, 3), 1.80 (m, 1), 1.40-1.70 (m, 2) ppm.

reactant | 3-[4-(imidazol-1-yl)phenoxy]piperidine | 1.26 mmol, 308 mg | N1(C=NC=C1)C1=CC=C(OC2CNCCC2)C=C1 | C14H17N3O
reactant | methanol | 6.0 mL | CO | CH4O
reactant | 4-methoxy-1-naphthaldehyde | 298 mg, 1.25 eq | COC1=CC=C(C2=CC=CC=C12)C=O | C12H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[(4-methoxynaphth-1-yl)methyl]piperidine | 54 mg | COC1=CC=C(C2=CC=CC=C12)CN1CCCCC1 | C17H21NO
